US08012966B2
A solution of acetic anhydride (1.6 ml) and formic acid (1.2 ml) was stirred for 1 hour at room temperature, and added with 5-amino-1,3-dihydro-indol-2-one (3.56 g, 24 mmol, prepared according to U.S. Pat. No. 6,114,371) in 60 ml of tetrahydrofuran and piperidine (0.04 ml). The resulting mixture was stirred for 3 hours at room temperature until a precipitate was formed. The solid was filtered and recrystallized from methanol to give N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-formamide (3.6 g, 85%) as a white solid.

reactant | acetic anhydride | 1.6 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.2 ml | C(=O)O | CH2O2
reactant | 5-amino-1,3-dihydro-indol-2-one | NC=1C=C2CC(NC2=CC1)=O | C8H8N2O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | piperidine | 0.04 ml | N1CCCCC1 | C5H11N
product | N-(2-oxo-2,3-dihydro-1H-indol-5-yl)-formamide | 3.6 g, 85% | O=C1NC2=CC=C(C=C2C1)NC=O | C9H8N2O2
